US04145434
2-methyl-1,2,3,3a,8,12b-hexahydro-dibenzo[1,2;5,6]cyclohepta[3,4-c]pyrrole.
cis-2-methyl-2,3,3a,12b-tetrahydro-1H-dibenz[2,3;6,7] oxepino[4,5-c]pyrrole maleate, m.p. 143-144° C.; cis-2,5-dimethyl-2,3,3a,12b-tetrahydro-1H-dibenz[ 2,3;6,7]oxepino[4,5-c]pyrrole, m.p. 99-101° C.; cis-2-methyl-5-chloro-2,3,3a,12b-tetrahydro-1H-dibenz[ 2,3;6,7]oxepino[4,5-c]pyrrole maleate, m.p. 116-169° C.; cis-2-methyl-1,2,3,4,4a,13b-hexahydro-dibenz[2,3;6,7] oxepino[4,5-c]pyridine maleate, m.p. 174-1750° C.; cis-2-methyl-2,3,4,4a,9,13b-hexahydro-1H-dibenzo[1,2;5,6] cyclohepta[3,4-c]pyridine maleate, m.p. 207-209° C. and the corresponding trans isomer (maleate salt), m.p. 175-176° C.

reactant | cis-2-methyl-2,3,3a,12b-tetrahydro-1H-dibenz[2,3;6,7] oxepino[4,5-c]pyrrole maleate | C(\C=C/C(=O)O)(=O)O.CN1C[C@@H]2[C@H](C1)C1=C(OC3=C2C=CC=C3)C=CC=C1
reactant | cis-2,5-dimethyl-2,3,3a,12b-tetrahydro-1H-dibenz[ 2,3;6,7]oxepino[4,5-c]pyrrole | CN1C[C@@H]2[C@H](C1)C1=C(OC3=C2C=CC=C3)C=CC(=C1)C | C18H19NO
reactant | cis-2-methyl-5-chloro-2,3,3a,12b-tetrahydro-1H-dibenz[ 2,3;6,7]oxepino[4,5-c]pyrrole maleate | C(\C=C/C(=O)O)(=O)O.CN1C[C@@H]2[C@H](C1)C1=C(OC3=C2C=CC=C3)C=CC(=C1)Cl
reactant | cis-2-methyl-1,2,3,4,4a,13b-hexahydro-dibenz[2,3;6,7] oxepino[4,5-c]pyridine maleate | C(\C=C/C(=O)O)(=O)O.CN1C[C@@H]2[C@H](CC1)C1=C(OC3=C2C=CC=C3)C=CC=C1
reactant | cis-2-methyl-2,3,4,4a,9,13b-hexahydro-1H-dibenzo[1,2;5,6] cyclohepta[3,4-c]pyridine maleate | C(\C=C/C(=O)O)(=O)O.CN1C[C@@H]2[C@H](CC1)C1=C(CC3=C2C=CC=C3)C=CC=C1
product | 2-methyl-1,2,3,3a,8,12b-hexahydro-dibenzo[1,2;5,6]cyclohepta[3,4-c]pyrrole | CN1CC2C(C1)C1=C(CC3=C2C=CC=C3)C=CC=C1 | C18H19N
